US07285368B2
To a mixture of 26.1 g of 4-[(methylsulfonyl)amino]-cyclohexyl acrylate (synthesized by the procedure of Example 4) and 50 g of toluene was added 8.0 g of cyclopentadiene. The mixture was stirred at 40° C. for 24 hours. The reaction solution was purified directly by silica gel column chromatography, obtaining 32.0 g of 4-[(methylsulfonyl)-amino]cyclohexyl 5-norbornene-2-carboxylate (yield 98%).

reactant | 4-[(methylsulfonyl)amino]-cyclohexyl acrylate | 26.1 g | C(C=C)(=O)OC1CCC(CC1)NS(=O)(=O)C | C10H17NO4S
reactant | cyclopentadiene | 8.0 g | C1=CC=CC1 | C5H6
reactant | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
product | 4-[(methylsulfonyl)-amino]cyclohexyl 5-norbornene-2-carboxylate | 32.0 g, yield 98% | C12C(CC(C=C1)C2)C(=O)OC2CCC(CC2)NS(=O)(=O)C | C15H23NO4S
